US07423047B2
3-Amino-7-(2-chlorophenyl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-2-carbonitrile
Acetonitrile (10 mL) was added to a solution of sodium bis(trimethylsilyl)amide (100 mL, 1.0M in THF, 100 mmol) in THF (50 mL) at −78° C. to give a thick white precipitate. 2-Chlorophenyl isothiocyanate (7.72 g, 45.45 mmol) was added to give a brown solution. The mixture was allowed to warm to r.t. over 1 h then diluted with EtOH (50 mL). N,N-Dimethyluracil (6.4 g, 45 mmol) was added and the mixture heated at reflux for 24 h. Volatiles were removed in vacuo and the residue dissolved in acetonitrile (100 mL). Chloroacetonitrile (2.85 mL, 45 mmol) was added and the mixture heated at 50° C. for 1 h, a second charge of chloroacetonitrile (2.85 mL, 45 mmol) was added and heating continued for 1.5 h. Some of the acetonitrile (˜50 mL) was removed in vacuo and water was added to precipitate the product. The brown solid was filtered off, washed with water (50 mL) and Et2O (50 mL) and dried to give the title compound as a brown solid (14.3 g, quant.). δH (DMSO-d6) 8.10 (1H, d, J 9.7 Hz), 7.75-7.73 (1H, m), 7.65-7.54 (3H, m), 7.14 (2H, br s, NH2), 6.54 (1H, d, J 9.7 Hz). LCMS (ES+) RT 2.97 minutes, 302 (M+H)+.

reactant | Acetonitrile | 10 mL | C(C)#N | C2H3N
reactant | sodium bis(trimethylsilyl)amide | 100 mmol, 1.0M, 100 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-Chlorophenyl isothiocyanate | 45.45 mmol, 7.72 g | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
reactant | Chloroacetonitrile | 45 mmol, 2.85 mL | ClCC#N | C2H2ClN
reactant | chloroacetonitrile | 45 mmol, 2.85 mL | ClCC#N | C2H2ClN
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOH | 50 mL | CCO | C2H6O
product | 3-Amino-7-(2-chlorophenyl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-2-carbonitrile | 14.3 g | NC1=C(SC=2N(C(C=CC21)=O)C2=C(C=CC=C2)Cl)C#N | C14H8ClN3OS
